US06613743B2
A solution of 4-amino-N-(cyclopentyloxy)-3-nitrobenzenesulfonamide (4.50 g, 14.95 mmol) in 1:1 ethyl acetate : ethanol (150 mL) was combined with 5% Pd on barium sulfate and reduced under a hydrogen atmosphere over 72 hours. The reaction mixture was filtered through a pad of diatomaceous earth and evaporated in vacuo to a residue which crystallized on standing. The solid was slurried in hexane, filtered and dried under high vacuum to provide 3,4-diamino-N-(cyclopentyloxy)benzenesulfonamide (4.086 g, 100%) as a light brown solid H1-NMR (dimethylsulfoxide-D6): 1.61 (m, 8H), 4.37 (m, 1H), 4.90 (b, 2H), 5.38 (b, 2H), 6.57 (d, 1H), 6.88 (m, 1H), 6.96 (d, 1H), 9.64 (s, !H). . MS(ESI): 272(M+H).

reactant | 4-amino-N-(cyclopentyloxy)-3-nitrobenzenesulfonamide | 14.95 mmol, 4.50 g | NC1=C(C=C(C=C1)S(=O)(=O)NOC1CCCC1)[N+](=O)[O-] | C11H15N3O5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd on barium sulfate | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3,4-diamino-N-(cyclopentyloxy)benzenesulfonamide | 4.086 g, 100% | NC=1C=C(C=CC1N)S(=O)(=O)NOC1CCCC1 | C11H17N3O3S
